US06660744B1
A mixture of (4-bromophenyl)(phenyl)methyl cyanide (0.604 g, 0.00222 mol), diboron pinacol ester (0.677 g, 0.00266 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.054 g, 0.000067 mol) and potassium acetate (0.52 g, 0.00666 mol) in N,N-dimethylformamide (30 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. Dichloromethane (80 mL) was added to the residue and the resulting solid was removed by filtration through a pad of Celite. The filtrate was concentrated to leave a yellow oil which was purified by flash chromatography on silica using ethyl acetate/n-heptane (1:9) as mobile phase. The resulting fractions were concentrated, the residue was triturated in n-heptane and the precipitate collected by filtration to yield 2-phenyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetonitrile (0.110 g, 0.000345 mol) as a white solid.

reactant | (4-bromophenyl)(phenyl)methyl cyanide | 0.00222 mol, 0.604 g | BrC1=CC=C(C=C1)C(C1=CC=CC=C1)C#N | C14H10BrN
reactant | diboron pinacol ester | 0.00266 mol, 0.677 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.000067 mol, 0.054 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.00666 mol, 0.52 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-phenyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetonitrile | 0.000345 mol, 0.110 g | C1(=CC=CC=C1)C(C#N)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H22BNO2
